US05591891
A solution of (R)-2-bromo-3-phenylpentanoic acid in dimethylformamide is added to a solution of thioacetic acid (1.5 equivalents) and sodium hydride (2.5 equivalents) in anhydrous dimethylformamide. The mixture is stirred for 3 hours at a temperature close to 20° C. After customary treatment, (S)-2-acetylthio-3-phenylpentanoic acid is obtained with a yield of 78% in the form of a yellow oil having the following characteristics: Rf =0.44 [methylene chloride/methanol (9:1 by volume)].

reactant | (R)-2-bromo-3-phenylpentanoic acid | Br[C@@H](C(=O)O)C(CC)C1=CC=CC=C1 | C11H13BrO2
reactant | thioacetic acid | 1.5 equivalents | C(C)(=S)O | C2H4OS
reactant | sodium hydride | 2.5 equivalents | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (S)-2-acetylthio-3-phenylpentanoic acid | yield of 78% | C(C)(=O)S[C@H](C(=O)O)C(CC)C1=CC=CC=C1 | C13H16O3S
